US06743794B2
(1S,4R)(4-Hydroxymethyl-cyclopent-2-enyl)-carbamic Acid t-butyl Ester
To a solution of 4-t-butoxycarbonylaminocyclopent-2-enecarboxylic acid (1 g, 4.4 mmol) dissolved in THF (100 ml) and added with borane-THF (4.5 ml, 4.5 mmol) at 0° C. and stirred overnight at r.t. The reaction mixture was poured into ice-cold water (100 ml) and extracted with ethyl acetate. The ethyl acetate extract was washed with brine, dried over sodium sulfate and evaporated to obtain the title compound (655 mg, 69%). ESMS: 214 (M+1)+, 236 (M+23)+, 248 (M+35)−, 272 (M+59)−.

reactant | 4-t-butoxycarbonylaminocyclopent-2-enecarboxylic acid | 4.4 mmol, 1 g | C(C)(C)(C)OC(=O)NC1C=CC(C1)C(=O)O | C11H17NO4
reactant | borane THF | 4.5 mmol, 4.5 ml | B.C1CCOC1
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | (1S,4R)(4-Hydroxymethyl-cyclopent-2-enyl)-carbamic Acid t-butyl Ester | 655 mg, 69% | C(C)(C)(C)OC(N[C@@H]1C=C[C@@H](C1)CO)=O | C11H19NO3
